2151-11-17 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2151-11-16**] 12:16 PM
 CHEST PAIN - Pt yelling out, O2 off, complaining of chest pain and
   severe nausea.  HR 100, BP 85/40's, PO2 high 80
s-low 90
s.  Nitro drip
   transiently turned off, pt placed on 100% face tent.  BP increased to
   110/60, Nitro restarted at .2mcq/k/min.  Gave .5mg IV morphine x2 and
   5mg IV lopressor x3.  Sats 98%.  Pain resolved and BP, PO2 stabilized
   but pt still tachycardic this morning.
 Delerium
 patient delirious and agitated, yelling and pulling at
   Foley, NC, lines with ?paranoid hallucinations.  Given Haldol 1mg x2
   with EKG with QTc 0.45s.  Given additional 1.5mg this morning with
   improvement of agitation/delerium.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Nitroglycerin - 0.28 mcg/Kg/min
   Eptifibatide (Integrilin) - 1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2151-11-17**] 01:05 AM
   Metoprolol - [**2151-11-17**] 03:10 AM
   Morphine Sulfate - [**2151-11-17**] 04:15 AM
   Haloperidol (Haldol) - [**2151-11-17**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-17**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.8
C (96.5
   HR: 105 (65 - 105) bpm
   BP: 95/62(68) {95/51(35) - 138/92(99)} mmHg
   RR: 18 (11 - 28) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                    448 mL
                                                                    391 mL
   PO:
                                                                    120 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    328 mL
                                                                    211 mL
   Blood products:
   Total out:
                                                                    370 mL
                                                                    245 mL
   Urine:
                                                                    370 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     78 mL
                                                                    146 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///26/
   Physical Examination
   GENERAL: Oriented to name only. No acute distress.
   HEENT:  JVP to mandible.
   CARDIAC: RRR, GII systolic murmur left upper border and apex. No
   thrills, lifts. No S3 or S4.
   LUNGS: Diffuse rales and rhonchi throughout.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: +1 pitting edema.
   PULSES:
   Right: DP 2+ PT 2+
   Left:  DP 2+ PT 2+
   Labs / Radiology
   178 K/uL
   13.1 g/dL
   212 mg/dL
   1.2 mg/dL
   26 mEq/L
   4.1 mEq/L
   37 mg/dL
   105 mEq/L
   143 mEq/L
   40.5 %
   11.5 K/uL
        [image002.jpg]
                             [**2151-11-16**]  11:20 AM
                             [**2151-11-16**]  05:26 PM
                             [**2151-11-16**]  10:17 PM
   WBC
   11.5
   Hct
   40.5
   Plt
   178
   Cr
   1.2
   TropT
   0.10
   0.95
   2.13
   Glucose
   212
   Other labs: PT / PTT / INR:15.0/37.3/1.3, CK / CKMB /
   Troponin-T:2505/272/2.13, Differential-Neuts:86.7 %, Lymph:10.2 %,
   Mono:2.3 %, Eos:0.6 %, Ca++:8.7 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Imaging: [**11-16**] CXR read pending
   ECG: [**11-17**] EKG:  No QT prolongation.
   Assessment and Plan
 87 year old female with dementia transferred from outside hospital
   with STEMI, being medically managed after reversal of DNR/DNI status.
   .
   # CORONARIES: OSH EKG demonstrates ST elevations in anterior leads.
   Elevation V1 > 2.5 mm suggests occlusion LAD distal to septal branch
   resulting in anterior MI. EKG on admission to CCU showed decreasing ST
   elevations in V1-V3 and q waves in V4-V5, this morning with worsening
   ST elevations. Patient hemodynamically stable and chest pain free
   currently but was tachycardic in 90
s-100
s overnight and this morning,
   with chest pain and significant nausea overnight, which responded to
   Nitro drip and Morphine.
   - Due to medical co-morbidities, improving EKG with q waves,
   hemodynamic stability continue medical management of STEMI
   - Integrillin course completed this AM
   - Heparin drip for 48 hours following CK peak
   - Uptitrate Metoprolol from home dose of 25mg [**Hospital1 **] to 25mg tid, as pt
   tachycardic, despite SBP 90
s-100
   - Plavix 600 mg loaded at outside hospital, continue plavix 75 mg daily
   - Atorvastatin 80 mg high dose, hold outpatient Simvastatin 40 mg qd
   - Continue [**Hospital1 119**] 325 mg qd
   - For pain control, on Nitro drip and Morphine, currently chest pain
   free, will wean nitro gtt today
   - NC oxygen
   - Zofran and compazine for nausea
   - Patient will need to be started on ACE-I, but hold now until have
   creatinine baseline
   .
   # PUMP: Patient with lower extremity edema and pulmonary rales on exam.
   Cardiomegaly on chest x-ray. Lasix listed as outpatient medication.
   Fluid overload in setting of congestive heart failure. TTE showed EF
   40-45% with prominent symmetric left ventricular hypertrophy with
   regional systolic dysfunction c/w CAD (mid-LAD distribution). Severe
   pulmonary artery systolic hypertension. Mild-moderate mitral
   regurgitation. Possible aortic valve stenosis.  Will continue home
   Lasix with goal even- (-)500cc/day.
   - Continue B-[**Last Name (LF) 770**], [**First Name3 (LF) 119**]
   - Continue home Lasix, with additional doses of Lasix to meet goal of
   even
 (-500)cc/day.
   - Patient will need to be started on ACE-I in the future, as above
   .
   # RHYTHM: Sinus, intermittently V-pacing.  Does not appear to have
   defibrillator.  Continue monitoring on tele.
   - Daily EKGs while receiving Haldol as below, to monitor QT interval
   .
   # Renal failure: No prior records, could be acute vs. chronic. GFR 55.
   - renal dose all meds
   - trend creatinine
   .
   # Dementia/Depression: Continue outpatient Aricept 10 mg qhs,
   Mitrazapine 15 mg qhs, Seroquel 25 mg [**Hospital1 **].  Patient extremely agitated
   overnight, responded to total Haldol 3.5mg IV.
   - Haldol 1mg PRN agitation
   .
   # Leukocytosis: WBC 11, most likely related to ACS/STEMI. No obvious
   infiltrate on CXR, no symptoms of cough, fever.
   - Monitor for signs of infection, though unlikely
   - Discontinue Levaquin
   # Dyslipidemia: Setting of ACS, Atorvastatin 80mg high dose.
   .
   # Hypertension: Continue outpatient Metoprolol 25 mg [**Hospital1 **] and d/c Nitro
   drip. Currently stable.
   .
   # Overactive bladder: DC detrol.
   .
   # Osteoporosis: Hold fosamax and vitamin D while in house.
   ICU CareCardiac heart healthy
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-11-16**] 12:03 PM
   Prophylaxis:
   DVT:  Heparin drip
   Stress ulcer:
   VAP:
   Comments: -Pain management with morpine, nitro
   -Bowel regimen with senna, colace
   Communication:  Comments: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 9225**] (guardian/lawyer) [**Telephone/Fax (1) 9226**].
   Code status: Full Code - prior to admission patient DNR/DNI however
   based on discussion with patient and guardian this was reversed to full
   code.
   Disposition:  CCU
   ------ Protected Section ------
   CCU ATTENDING DAILY PROGRESS NOTE:
   I have reviewed the Comprehensive Progress Note today by Dr. [**First Name (STitle) **] and I
   concur with the history, physical examination, assessment, and
   treatment plan outlined above.  The physical examination is consistent
   with my own examination today.
   Mrs. [**Known lastname 1198**] is a 77 year old woman with known aortic stenosis (peak
   velocity 4.3 M/sec) who suffers with dementia and is a nursing home
   resident.  Earlier today, she developed typical chest pain consistent
   with an anterior STEMI by EKG.  After review of her condition and
   overall prognosis
 she is oriented x 1
 we have opted for maximal
   medical therapy with IV heparin, clopidogrel, IV eptifibatide, morphine
   and morphine sulfate.   An echocardiogram showed a LVEF of
   approximately 40% with mid and distal anterior hypokinesis.
   The patient is resting currently comfortably and is painfree.  She
   states that she feels much better than yesterday but cannot place where
   she is.  She has had borderline hypotension (systolic 90s) and we will
   start low dose beta [**Known lastname 770**] and captopril therapy.
   Our primary goal is patient comfort.  Routine post MI care full be
   undertaken.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**], MD  [**Pager number 9211**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2151-11-17**] 16:04 ------

2151-11-18 08:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No acute events overnight.  BP elevated but came back down before extra
   beta [** 770**] dose, which was therefore not given.  Pt did not require
   additional Haldol overnight.  Denies chest pain, SOB, nausea this
   morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 950 units/hour
   Other ICU medications:
   Metoprolol - [**2151-11-17**] 10:32 AM
   Haloperidol (Haldol) - [**2151-11-17**] 11:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-18**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37
C (98.6
   HR: 83 (71 - 108) bpm
   BP: 133/68(83) {83/47(60) - 133/76(103)} mmHg
   RR: 20 (17 - 23) insp/min
   SpO2: 92%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 70.4 kg (admission): 71 kg
   Height: 62 Inch
             Total In:
                                                                  1,517 mL
                                                                     64 mL
   PO:
                                                                  1,050 mL
             TF:
   IVF:
                                                                    467 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                    865 mL
                                                                    430 mL
   Urine:
                                                                    865 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    652 mL
                                                                   -366 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///29/
   Physical Examination
   GENERAL: Oriented to name only. No acute distress.
   HEENT:  JVP 11cm.
   CARDIAC: RRR, GII systolic murmur left upper border and apex. No
   thrills, lifts. No S3 or S4.
   LUNGS: Diffuse rales and rhonchi throughout.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: +1 pitting edema in dependent areas.
   Labs / Radiology
   165 K/uL
   11.9 g/dL
   128 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.8 mEq/L
   32 mg/dL
   105 mEq/L
   141 mEq/L
   36.4 %
   15.3 K/uL
        [image002.jpg]
                             [**2151-11-16**]  11:20 AM
                             [**2151-11-16**]  05:26 PM
                             [**2151-11-16**]  10:17 PM
                             [**2151-11-17**]  12:20 PM
                             [**2151-11-18**]  03:49 AM
   WBC
   11.5
   14.2
   15.3
   Hct
   40.5
   39.5
   36.4
   Plt
   178
   177
   165
   Cr
   1.2
   1.4
   1.0
   TropT
   0.10
   0.95
   2.13
   3.66
   Glucose
   [**Telephone/Fax (3) 9260**]
   Other labs: PT / PTT / INR:14.2/31.9/1.2, CK / CKMB /
   Troponin-T:2391/253/3.66, Differential-Neuts:86.7 %, Lymph:10.2 %,
   Mono:2.3 %, Eos:0.6 %, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Imaging: CXR [**11-17**] read pending, ?pneumothorax
   CXR [**11-18**] pending
   Assessment and Plan
 87 year old female with dementia transferred from outside hospital
   with STEMI, being medically managed after reversal of DNR/DNI status.
   .
   # CORONARIES: OSH EKG demonstrates ST elevations in anterior leads.
   Elevation V1 > 2.5 mm suggests occlusion LAD distal to septal branch
   resulting in anterior MI. EKG on admission to CCU showed decreasing ST
   elevations in V1-V3 and q waves in V4-V5, this morning with worsening
   ST elevations. Patient hemodynamically stable and chest pain free
   currently but was tachycardic in 90
s-100
s overnight and this morning,
   with chest pain and significant nausea overnight, which responded to
   Nitro drip and Morphine.  Nitro drip now d/c
ed, pt chest pain free
   overnight.  Metoprolol up-titrated for HR control.
   - Due to medical co-morbidities, improving EKG with q waves,
   hemodynamic stability continue medical management of STEMI
   - Heparin drip for 48 hours following CK peak, will d/c today at
   appropriate time
   - Continue Metoprolol, Plavix, Atorvastatin, [**Month/Day (4) 119**]
   - Hold outpatient Simvastatin 40 mg qd
   - Zofran and compazine as needed for nausea
   - Patient will need to be started on ACE-I, but hold now until tomorrow
   .
   # PUMP: Patient with lower extremity edema and pulmonary rales on exam.
   Cardiomegaly on chest x-ray. Lasix listed as outpatient medication.
   Fluid overload in setting of congestive heart failure. TTE showed EF
   40-45% with prominent symmetric left ventricular hypertrophy with
   regional systolic dysfunction c/w CAD (mid-LAD distribution). Severe
   pulmonary artery systolic hypertension. Mild-moderate mitral
   regurgitation. Possible aortic valve stenosis.  Currently on home dose
   Lasix.
   - Continue B-[**Last Name (LF) 770**], [**First Name3 (LF) 119**]
   - Switch to Lasix drip, with additional doses of Lasix to meet goal of
   -1.5-2L/day.
   - Patient will need to be started on ACE-I in the future, as above
   .
   # RHYTHM: Sinus, intermittently V-pacing.  Does not appear to have
   defibrillator.  Continue monitoring on tele.
   - Daily EKGs while receiving Haldol as below, to monitor QT interval
   .
   # Renal failure: Acute renal failure, likely [**3-15**] hypoperfusion from
   STEMI, now resolved to Cr 1.0.
   .
   # Dementia/Depression: Continue outpatient Aricept 10 mg qhs,
   Mitrazapine 15 mg qhs, Seroquel 25 mg [**Hospital1 **].  Patient extremely agitated
   previous night, responded to total Haldol 3.5mg IV, but calm without
   need for Haldol last night.
   .
   # Leukocytosis: Resolving, most likely related to ACS/STEMI. No obvious
   infiltrate on CXR, no symptoms of cough, fever.  Levaquin d/c
ed as no
   evidence of infection.
   # Dyslipidemia: Setting of ACS, Atorvastatin 80mg high dose.
   .
   # Hypertension: Continue outpatient Metoprolol 25 mg [**Hospital1 **] and d/c Nitro
   drip. Currently stable.
   .
   # Overactive bladder: DC detrol.
   .
   # Osteoporosis: Hold fosamax and vitamin D while in house.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2151-11-16**] 12:03 PM
   Prophylaxis:
   DVT:  Heparin drip
   Stress ulcer:
   VAP:
   Comments: -Pain management with morpine, nitro
   -Bowel regimen with senna, colace
   Communication:  Comments: [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 9225**] (guardian/lawyer) [**Telephone/Fax (1) 9226**].
   Code status: Full Code - prior to admission patient DNR/DNI however
   based on discussion with patient and guardian this was reversed to full
   code.
   Disposition:  CCU
   ------ Protected Section ------
   CCU ATTENDING DAILY PROGRESS NOTE:
   I have reviewed the Comprehensive Progress Note today by Dr. [**First Name (STitle) **] and I
   concur with the history, physical examination, assessment, and
   treatment plan outlined above.  The physical examination is consistent
   with my own examination today.
   Mrs. [**Known lastname 1198**] is a 77 year old woman with known aortic stenosis (peak
   velocity 4.3 M/sec) who suffers with dementia and is a nursing home
   resident.  She developed typical chest pain consistent with an anterior
   STEMI by EKG.  She was treated with maximal medical therapy including
   IV heparin, clopidogrel, IV eptifibatide, morphine and morphine
   sulfate.
   An echocardiogram showed a LVEF of approximately 40% with mid and
   distal anterior hypokinesis.
   The patient is resting currently comfortably and is painfree.  She
   remains oriented times 1.  Her blood pressures have stabilized and we
   will start low dose beta [**Known lastname 770**].  We will not give ACE inhibitors at
   the current time due to her underlying aortic stenosis.  Her enzymes
   have peaked and are downtrending
   Our primary goal is patient comfort.  Routine post MI care full be
   undertaken.  She will be able to move to the floor tomorrow.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**], MD  [**Pager number 9211**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2151-11-18**] 21:37 ------

2151-11-19 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**11-18**]:
   - Updated [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 9225**] ([**Telephone/Fax (1) 9278**])/legal guardian. Revert back to
   DNR/DNI for code status.
   -patient difficult to draw [**Last Name (LF) 1056**], [**First Name3 (LF) **] evening lyte check skipped; may be
   issue in the morning for AM labs
   -IV blew this AM; IV team coming; no AM labs drawn yet
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2151-11-18**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-19**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37
C (98.6
   HR: 87 (67 - 107) bpm
   BP: 96/57(65) {88/40(53) - 136/71(83)} mmHg
   RR: 20 (16 - 29) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 72.2 kg (admission): 71 kg
   Height: 62 Inch
             Total In:
                                                                    848 mL
                                                                     61 mL
   PO:
                                                                    630 mL
             TF:
   IVF:
                                                                    218 mL
                                                                     61 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  2,560 mL
                                                                    915 mL
   Urine:
                                                                  2,560 mL
                                                                    915 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,712 mL
                                                                   -854 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   GENERAL: Oriented to name only. No acute distress.
   HEENT:  JVP 11cm.
   CARDIAC: RRR, GII systolic murmur left upper border and apex. No
   thrills, lifts. No S3 or S4.
   LUNGS: Diffuse rales and rhonchi throughout.
   ABDOMEN: Soft, NTND.
   EXTREMITIES: +1 pitting edema in dependent areas.
   Labs / Radiology
   165 K/uL
   11.9 g/dL
   128 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.8 mEq/L
   32 mg/dL
   105 mEq/L
   141 mEq/L
   36.4 %
   15.3 K/uL
        [image002.jpg]
                             [**2151-11-16**]  11:20 AM
                             [**2151-11-16**]  05:26 PM
                             [**2151-11-16**]  10:17 PM
                             [**2151-11-17**]  12:20 PM
                             [**2151-11-18**]  03:49 AM
   WBC
   11.5
   14.2
   15.3
   Hct
   40.5
   39.5
   36.4
   Plt
   178
   177
   165
   Cr
   1.2
   1.4
   1.0
   TropT
   0.10
   0.95
   2.13
   3.66
   Glucose
   [**Telephone/Fax (3) 9260**]
   Other labs: PT / PTT / INR:14.2/31.9/1.2, CK / CKMB /
   Troponin-T:2391/253/3.66, Differential-Neuts:86.7 %, Lymph:10.2 %,
   Mono:2.3 %, Eos:0.6 %, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Imaging: [**11-18**] CXR
   There is no visible pneumothorax. Cardiac silhouette remains enlarged,
   and
   there is persistent mild pulmonary vascular congestion. Improving
   subtle hazy
   opacities in the left lung likely represent slowly resolving edema
   considering
   more extensive interstitial edema present on an earlier radiograph of
   [**11-16**], [**2151**].
   Assessment and Plan
 87 year old female with dementia transferred from outside hospital
   with STEMI, being medically managed after reversal of DNR/DNI status.
   .
   # PUMP: Patient with lower extremity edema and pulmonary rales on exam.
   Cardiomegaly on chest x-ray. Lasix listed as outpatient medication.
   Fluid overload in setting of congestive heart failure. TTE showed EF
   40-45% with prominent symmetric left ventricular hypertrophy with
   regional systolic dysfunction c/w CAD (mid-LAD distribution). Severe
   pulmonary artery systolic hypertension. Mild-moderate mitral
   regurgitation. Possible aortic valve stenosis.  Currently on Lasix drip
   at 10ml/hr.  Remains fluid overloaded
   - Continue B-[**Last Name (LF) 770**], [**First Name3 (LF) 119**]
   - Continue Lasix drip, goal of -1.5-2L/day.
   - Patient will need to be started on ACE-I in the future, following
   diuresis
   .
   # RHYTHM: In a fib this morning, previously sinus and intermittently
   V-pacing.  HR 110
s with BP 80
s, will administer Metoprolol IV and
   watch for spontaneous conversion to sinus and/or rate control with BP
   response. Continue monitoring on tele.
   - Metoprolol 2.5mg IV x1, reassess for additional doses of Metoprolol
   - Daily EKGs
   .
   # CORONARIES: OSH EKG demonstrates ST elevations in anterior leads.
   Elevation V1 > 2.5 mm suggests occlusion LAD distal to septal branch
   resulting in anterior MI. EKG on admission to CCU showed decreasing ST
   elevations in V1-V3 and q waves in V4-V5, this morning with worsening
   ST elevations. Patient hemodynamically stable and chest pain free
   currently but was tachycardic in 90
s-100
s overnight and this morning,
   with chest pain and significant nausea overnight, which responded to
   Nitro drip and Morphine.  Nitro drip now d/c
ed, pt chest pain free
   overnight.  Metoprolol up-titrated recently for HR control.  Due to
   medical co-morbidities, improving EKG with q waves, hemodynamic
   stability underwent medical management of STEMI.  Now CEs trending down
   but still with ST elevations on EKG.
   - Heparin drip for 48 hours following CK peak, will d/c today at
   appropriate time
   - Continue Metoprolol, Plavix, Atorvastatin, [**First Name3 (LF) 119**]
   - Hold outpatient Simvastatin 40 mg qd
   - Patient will need to be started on ACE-I, but hold now until after
   diuresis
   .
   # Renal failure: Acute renal failure, likely [**3-15**] hypoperfusion from
   STEMI, now resolved to Cr 1.0.
   - Reinitiate ACE once diuresis complete
   .
   # Dementia/Depression: Continue outpatient Aricept 10 mg qhs,
   Mitrazapine 15 mg qhs, Seroquel 25 mg [**Hospital1 **].  Patient extremely needing
   Haldol previously, but calm since without need for Haldol.
   .
   # Leukocytosis: Resolving, most likely related to ACS/STEMI. No obvious
   infiltrate on CXR, no symptoms of cough, fever.  Levaquin d/c
ed as no
   evidence of infection.
   # Dyslipidemia: Setting of ACS, Atorvastatin 80mg high dose.
   .
   # Hypertension: Continue outpatient Metoprolol 25 mg [**Hospital1 **] and d/c Nitro
   drip. Currently stable/low in setting of a fib.
   .
   # Overactive bladder: DC detrol.
   .
   # Osteoporosis: Hold fosamax and vitamin D while in house.
   ICU Care
   Nutrition: Heart healthy/Low sodium diet
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:  SC Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI (confirmed)
   Disposition:
   ------ Protected Section ------
   Addendum:  Will contact legal guardian and patient
s nursing home to
   assess for indication for anticoagulation if pt continues to be in
   afib, particularly given risks of fall/bleed.
   ------ Protected Section Addendum Entered By:[**Name (NI) 9282**] [**First Name8 (NamePattern2) 9283**] [**Last Name (NamePattern1) **], MD
   on:[**2151-11-19**] 10:11 ------
   CCU ATTENDING DAILY PROGRESS NOTE:
   I have reviewed the Comprehensive Progress Note today by Dr. [**First Name (STitle) **] and I
   concur with the history, physical examination, assessment, and
   treatment plan outlined above.  The physical examination is consistent
   with my own examination today.
   History:  As documented by Dr. [**First Name (STitle) **]
   Physical:  As documented by Dr. [**First Name (STitle) **]
   Medical Decision Making:   Mrs. [**Known lastname 1198**] is a 77 year old woman with
   known aortic stenosis (peak velocity 4.3 M/sec) who suffers with
   dementia and is a nursing home resident.  She developed typical chest
   pain consistent with an anterior STEMI by EKG.  She was treated with
   maximal medical therapy including IV heparin, clopidogrel, IV
   eptifibatide, morphine and morphine sulfate.   Aspirin and clopidogrel
   have been continued.  An echocardiogram showed a LVEF of approximately
   40% with mid and distal anterior hypokinesis.
   The patient continues to rest comfortably and is painfree.  She remains
   oriented times 1.
   She developed atrial fibrillation today without a rapid ventricular
   response.  She will be treated with beta blockers and continued on
   aspirin and clopidogrel without warfarin.
   Our primary goal continues to be patient comfort.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**], MD  [**Pager number 9211**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2151-11-19**] 20:45 ------

2151-11-20 06:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Developed A fib with RVR with HR 110's and BP low 80's in the setting,
   given Metoprolol 2.5mg IV x1 with HR 80's and BP high 90's, in flutter.
   -Discussed possibly starting anticoagulation, but uncertain of risks vs
   benefits
   -Negative 1.3 in PM so Lasix drip decreased to 5ml/hr
   -[**2-12**] IVs blew, nurse [**First Name (Titles) **] [**Last Name (Titles) 9294**] could not get blood from pt; we
   drew labs in PM, lytes repleted.  Hct low, but no evidence of bleed so
   will f/u AM labs
   -Continued having a fib, rates in 100's again in PM with drop in BP to
   73/44 which persisted in 70's-80's.  PM Metoprolol 25mg tid held and
   instead was given 2.5mg IV Metoprolol x2 with P high 80-100, BP mid
   80's while sleeping.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2151-11-20**] 12:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-20**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 98 (74 - 105) bpm
   BP: 89/46(57) {77/38(49) - 108/75(82)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.2 kg (admission): 71 kg
   Height: 62 Inch
                  Total In:
                                                                    734 mL
                                                                    300 mL
   PO:
                                                                    540 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    194 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                    255 mL
   Urine:
                                                                  2,255 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,521 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   168 K/uL
   11.2 g/dL
   108 mg/dL
   1.2 mg/dL
   31 mEq/L
   4.5 mEq/L
   41 mg/dL
   103 mEq/L
   142 mEq/L
   34.1 %
   11.7 K/uL
        [image002.jpg]
                             [**2151-11-16**]  11:20 AM
                             [**2151-11-16**]  05:26 PM
                             [**2151-11-16**]  10:17 PM
                             [**2151-11-17**]  12:20 PM
                             [**2151-11-18**]  03:49 AM
                             [**2151-11-19**]  09:50 AM
                            [**2151-11-20**]  05:05 AM
   WBC
   11.5
   14.2
   15.3
   14.1
   11.7
   Hct
   40.5
   39.5
   36.4
   33.8
   34.1
   Plt
   178
   177
   165
   150
   168
   Cr
   1.2
   1.4
   1.0
   1.0
   1.2
   TropT
   0.10
   0.95
   2.13
   3.66
   Glucose
   [**Telephone/Fax (3) 9295**]13
   108
   Other labs: PT / PTT / INR:14.1/26.6/1.2, CK / CKMB /
   Troponin-T:2391/253/3.66, Differential-Neuts:86.7 %, Lymph:10.2 %,
   Mono:2.3 %, Eos:0.6 %, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
   Assessment and Plan
 87 year old female with dementia transferred from outside hospital
   with STEMI, being medically managed after reversal of DNR/DNI status.
   .
   # PUMP: Patient with lower extremity edema and pulmonary rales on exam.
   Cardiomegaly on chest x-ray. Lasix listed as outpatient medication.
   Fluid overload in setting of congestive heart failure. TTE showed EF
   40-45% with prominent symmetric left ventricular hypertrophy with
   regional systolic dysfunction c/w CAD (mid-LAD distribution). Severe
   pulmonary artery systolic hypertension. Mild-moderate mitral
   regurgitation. Possible aortic valve stenosis.  Currently on Lasix drip
   at 10ml/hr.  Remains fluid overloaded
   - Continue B-[**Last Name (LF) 770**], [**First Name3 (LF) 119**]
   - Continue Lasix drip, goal of -1.5-2L/day.
   - Patient will need to be started on ACE-I in the future, following
   diuresis
   .
   # RHYTHM: In a fib this morning, previously sinus and intermittently
   V-pacing.  HR 110
s with BP 80
s, will administer Metoprolol IV and
   watch for spontaneous conversion to sinus and/or rate control with BP
   response. Continue monitoring on tele.
   - Metoprolol 2.5mg IV x1, reassess for additional doses of Metoprolol
   - Daily EKGs
   .
   # CORONARIES: OSH EKG demonstrates ST elevations in anterior leads.
   Elevation V1 > 2.5 mm suggests occlusion LAD distal to septal branch
   resulting in anterior MI. EKG on admission to CCU showed decreasing ST
   elevations in V1-V3 and q waves in V4-V5, this morning with worsening
   ST elevations. Patient hemodynamically stable and chest pain free
   currently but was tachycardic in 90
s-100
s overnight and this morning,
   with chest pain and significant nausea overnight, which responded to
   Nitro drip and Morphine.  Nitro drip now d/c
ed, pt chest pain free
   overnight.  Metoprolol up-titrated recently for HR control.  Due to
   medical co-morbidities, improving EKG with q waves, hemodynamic
   stability underwent medical management of STEMI.  Now CEs trending down
   but still with ST elevations on EKG.
   - Heparin drip for 48 hours following CK peak, will d/c today at
   appropriate time
   - Continue Metoprolol, Plavix, Atorvastatin, [**First Name3 (LF) 119**]
   - Hold outpatient Simvastatin 40 mg qd
   - Patient will need to be started on ACE-I, but hold now until after
   diuresis
   .
   # Renal failure: Acute renal failure, likely [**3-15**] hypoperfusion from
   STEMI, now resolved to Cr 1.0.
   - Reinitiate ACE once diuresis complete
   .
   # Dementia/Depression: Continue outpatient Aricept 10 mg qhs,
   Mitrazapine 15 mg qhs, Seroquel 25 mg [**Hospital1 **].  Patient extremely needing
   Haldol previously, but calm since without need for Haldol.
   .
   # Leukocytosis: Resolving, most likely related to ACS/STEMI. No obvious
   infiltrate on CXR, no symptoms of cough, fever.  Levaquin d/c
ed as no
   evidence of infection.
   # Dyslipidemia: Setting of ACS, Atorvastatin 80mg high dose.
   .
   # Hypertension: Continue outpatient Metoprolol 25 mg [**Hospital1 **] and d/c Nitro
   drip. Currently stable/low in setting of a fib.
   .
   # Overactive bladder: DC detrol.
   .
   # Osteoporosis: Hold fosamax and vitamin D while in house.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2151-11-19**] 07:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2151-11-20 11:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**11-19**]:
   -Fluid overloaded on exam, given Lasix 20mg IV x1
   -Renal US: cannot exclude R renal artery stenosis
   -Guiac negative
   -Went into a fib at rate 105, BP 105/43, gave Metoprolol 5mg IV x1,
   rate in 90's, BP briefly in high 70's then high 80's. No further
   intervention as history of paroxysmal afib, asymptomatic.
   -Metoprolol increased to home dose 37.5mg [**Hospital1 **] (was on 25mg [**Hospital1 **]), to
   start in AM for rate control
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2151-11-20**] 12:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-20**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.3
C (95.6
   HR: 113 (74 - 113) bpm
   BP: 81/41(51) {77/38(49) - 108/70(77)} mmHg
   RR: 17 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72.2 kg (admission): 71 kg
   Height: 62 Inch
                  Total In:
                                                                    734 mL
                                                                    300 mL
   PO:
                                                                    540 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    194 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                    335 mL
   Urine:
                                                                  2,255 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,521 mL
                                                                    -35 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   GENERAL: Oriented to name only. No acute distress.
   HEENT:
   CARDIAC: RRR, GII systolic murmur left upper sternal border and apex.
   RV lift present from prior exams.
   LUNGS: Diffuse rales to mid lung fields b/l.
   ABDOMEN: Soft, NT/ND.
   EXTREMITIES: +1 pitting edema in dependent areas.
   Labs / Radiology
   168 K/uL
   11.2 g/dL
   108 mg/dL
   1.2 mg/dL
   31 mEq/L
   4.5 mEq/L
   41 mg/dL
   103 mEq/L
   142 mEq/L
   34.1 %
   11.7 K/uL
        [image002.jpg]
                             [**2151-11-16**]  11:20 AM
                             [**2151-11-16**]  05:26 PM
                             [**2151-11-16**]  10:17 PM
                             [**2151-11-17**]  12:20 PM
                             [**2151-11-18**]  03:49 AM
                             [**2151-11-19**]  09:50 AM
                            [**2151-11-20**]  05:05 AM
   WBC
   11.5
   14.2
   15.3
   14.1
   11.7
   Hct
   40.5
   39.5
   36.4
   33.8
   34.1
   Plt
   178
   177
   165
   150
   168
   Cr
   1.2
   1.4
   1.0
   1.0
   1.2
   TropT
   0.10
   0.95
   2.13
   3.66
   Glucose
   [**Telephone/Fax (3) 9295**]13
   108
   Other labs: PT / PTT / INR:14.1/26.6/1.2, CK / CKMB /
   Troponin-T:2391/253/3.66, Differential-Neuts:86.7 %, Lymph:10.2 %,
   Mono:2.3 %, Eos:0.6 %, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
 87 year old female with dementia transferred from outside hospital
   with STEMI, being medically managed after reversal of DNR/DNI status,
   now back to DNR/DNI status.
   .
   # PUMP: Patient with lower extremity edema and pulmonary rales on exam.
   Cardiomegaly on chest x-ray. Lasix listed as outpatient medication.
   Fluid overload in setting of congestive heart failure. TTE showed EF
   40-45% with prominent symmetric left ventricular hypertrophy with
   regional systolic dysfunction c/w CAD (mid-LAD distribution). Severe
   pulmonary artery systolic hypertension. Mild-moderate mitral
   regurgitation. Possible aortic valve stenosis.  Lasix drip at 10ml/hr
   was d/c
ed last night when BP decreased to 70
s while sleeping.
   Remains fluid overloaded
   - Continue Metoprolol at lower dose of 12.5mg tid, ASA
   - Initiate Digoxin with loading dose and then maintenance dose to slow
   HR and increase CO and BP
   - Re-initiate Lasix drip, goal of -1.5-2L/day.
   - Patient will need to be started on ACE-I in the future, following
   diuresis
   .
   # RHYTHM: In a fib since [**11-19**] AM, previously sinus and intermittently
   V-pacing.  HR 80
s-110
s overnight with BP 70
s-80
s while sleeping.
   Did not respond to Metoprolol IV overnight, but did yesterday morning.
   Will decrease Metoprolol to 12.5mg tid to decrease BP effect and
   initiate Digoxin to decrease HR without significant BP effect.  Goal HR
   80-90
   - Initiate Digoxin to slow HR with minimal BP effect
   - Decrease Metoprolol to 12.5mg mg tid
   - On ASA, Plavix, but holding on Coumadin as patient high fall risk and
   risks outweight benefits of Coumadin
   - Daily EKGs
   .
   # CORONARIES: OSH EKG demonstrates ST elevations in anterior leads.
   Elevation V1 > 2.5 mm suggests occlusion LAD distal to septal branch
   resulting in anterior MI. EKG on admission to CCU showed decreasing ST
   elevations in V1-V3 and q waves in V4-V5, this morning with worsening
   ST elevations. Patient hemodynamically stable and chest pain free
   currently but was tachycardic in 90
s-100
s overnight and this morning,
   with chest pain and significant nausea overnight, which responded to
   Nitro drip and Morphine.  Nitro drip now d/c
ed, pt chest pain free
   overnight.  Metoprolol up-titrated recently for HR control.  Due to
   medical co-morbidities, improving EKG with q waves, hemodynamic
   stability underwent medical management of STEMI.  Now CEs trending down
   but still with ST elevations on EKG.
   - RV lift present on previous days exams, but will obtain focused TTE
   to r/o VSD as complication of STEMI
   - Continue Metoprolol at lower dose of 12.5mg tid
   - Continue Plavix, Atorvastatin, ASA
   - Hold outpatient Simvastatin 40 mg qd
   - Patient will need to be started on ACE-I, but hold now until after
   diuresis
   .
   # Renal failure: Acute renal failure, likely [**3-15**] hypoperfusion from
   STEMI, now resolved to Cr 1.0.
   - Reinitiate ACE once diuresis complete
   .
   # Dementia/Depression: Continue outpatient Aricept 10 mg qhs,
   Mitrazapine 15 mg qhs, Seroquel 25 mg [**Hospital1 **].  Patient extremely needing
   Haldol previously, but calm since without need for Haldol.
   .
   # Leukocytosis: Resolving, most likely related to ACS/STEMI. No obvious
   infiltrate on CXR, no symptoms of cough, fever.  Levaquin d/c
ed as no
   evidence of infection.
   # Dyslipidemia: Setting of ACS, Atorvastatin 80mg high dose.
   .
   # Hypertension: Metoprolol as above.  Nitro drip previously d/c
   Currently stable/low in setting of a fib.
   .
   # Overactive bladder: DC detrol.
   .
   # Osteoporosis: Hold fosamax and vitamin D while in house.
   ICU Care
   Nutrition:  Heart healthy, low sodium diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2151-11-19**] 07:00 AM
   Prophylaxis:
   DVT: Change from SC Heparin to Pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI (confirmed)
   Disposition:
   ------ Protected Section ------
   CCU ATTENDING DAILY PROGRESS NOTE:
   I have reviewed the Comprehensive Progress Note today by Dr. [**First Name (STitle) **] and I
   concur with the history, physical examination, assessment, and
   treatment plan outlined above.  The physical examination is consistent
   with my own examination today.
   History:  As documented by Dr. [**First Name (STitle) **]
   Physical:  As documented by Dr. [**First Name (STitle) **]
   Medical Decision Making:   Mrs. [**Known lastname 1198**] is a 87 year old woman with
   known aortic stenosis (peak velocity 4.3 M/sec) who suffers with
   dementia and is a nursing home resident.  She developed typical chest
   pain consistent with an anterior STEMI by EKG.  She was treated with
   maximal medical therapy including IV heparin, clopidogrel, IV
   eptifibatide, morphine and morphine sulfate.   Aspirin and clopidogrel
   have been continued.  An echocardiogram showed a LVEF of approximately
   40% with mid and distal anterior hypokinesis.
   Over the last evening, the patient developed atrial fibrillation
   without a rapid ventricular response.  She has been treated with beta
   blockers and continued on aspirin and clopidogrel.  We will not give
   her warfarin considering her underlying orientation and
   co-morbidities.
   We will continue diuresis to provide volume control.
   We would consider cardioversion in the event that she does not revert
   to sinus rhythm and develops hemodynamic instability due to a loss of
   her atrial kick and shortened diastolic filling period.
   Our primary goal continues to be patient comfort.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**], MD  [**Pager number 9211**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2151-11-20**] 15:39 ------

2151-11-21 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Nausea.
   24 Hour Events:
   In atrial fibrillation with tachycardia up to 130s and SBP down to 80s,
   so was digoxin loaded, with HR into 80s to 100s and SBP in 100s
   afterwards. Continuing to digoxin load (based on renal function) and
   then will treat with digoxin.
   Patient with diarrhea and nausea this morning.
   During rounds, heart rate up to the 120s in atrial fibrillation with
   systolic blood pressure in the 90s.
   Guiac positive stool, Hct stable.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-11-21**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-21**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.4
C (95.7
   HR: 96 (71 - 113) bpm
   BP: 101/60(70) {78/37(49) - 120/66(75)} mmHg
   RR: 19 (9 - 23) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 68.7 kg (admission): 71 kg
   Height: 62 Inch
                  Total In:
                                                                  1,320 mL
                                                                    180 mL
   PO:
                                                                  1,320 mL
                                                                    180 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    690 mL
                                                                    290 mL
   Urine:
                                                                    690 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    630 mL
                                                                   -110 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   GEN: NAD
   CV: II/VI SEM, loudest at RUSB, irregularly irregular.
   PULM: Rales b/l R>L [**2-13**] of the way up the lung fields
   ABD: soft, nt, nd
   Labs / Radiology
   197 K/uL
   11.4 g/dL
   113 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.8 mEq/L
   37 mg/dL
   103 mEq/L
   142 mEq/L
   35.4 %
   10.3 K/uL
        [image002.jpg]
                             [**2151-11-16**]  11:20 AM
                             [**2151-11-16**]  05:26 PM
                             [**2151-11-16**]  10:17 PM
                             [**2151-11-17**]  12:20 PM
                             [**2151-11-18**]  03:49 AM
                             [**2151-11-19**]  09:50 AM
                            [**2151-11-20**]  05:05 AM
                            [**2151-11-21**]  05:40 AM
   WBC
   11.5
   14.2
   15.3
   14.1
   11.7
   10.3
   Hct
   40.5
   39.5
   36.4
   33.8
   34.1
   35.4
   Plt
   178
   177
   165
   150
   168
   197
   Cr
   1.2
   1.4
   1.0
   1.0
   1.2
   0.9
   TropT
   0.10
   0.95
   2.13
   3.66
   Glucose
   [**Telephone/Fax (3) 9295**]13
   108
   113
   Other labs: PT / PTT / INR:13.5/26.1/1.2, CK / CKMB /
   Troponin-T:2391/253/3.66, Differential-Neuts:86.7 %, Lymph:10.2 %,
   Mono:2.3 %, Eos:0.6 %, Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:1.5 mg/dL
   Imaging
 TTE: No ASD. LV systolic function appears depressed. No VSD.
   Significant aortic stenosis is present (not quantified). Trace aortic
   regurgitation is seen. Mild to moderate ([**2-12**]+) mitral regurgitation is
   seen. There is no pericardial effusion.
   Compared with the prior study (images reviewed) of [**2151-11-17**], no
   change.
   Assessment and Plan
   87 year old female with dementia transferred from outside hospital with
   STEMI, being medically managed after reversal of DNR/DNI status, now
   back to DNR/DNI status.
   .
   # PUMP: Patient with lower extremity edema and pulmonary rales on exam.
   Cardiomegaly on chest x-ray. Lasix listed as outpatient medication.
   Fluid overload in setting of congestive heart failure. TTE showed EF
   40-45% with prominent symmetric left ventricular hypertrophy with
   regional systolic dysfunction c/w CAD (mid-LAD distribution). Severe
   pulmonary artery systolic hypertension. Mild-moderate mitral
   regurgitation. Possible aortic valve stenosis.  Lasix drip was d/c
   the evening of [**11-19**] d/t SBP
s in the 70s. Remains fluid overloaded.
   - Increase Metoprolol to 25mg tid
   - ASA
   - Continue digoxin with loading dose and then maintenance dose of daily
   digoxin to slow HR
   - Check digoxin level tomorrow
   - Patient will need to be started on ACE-I in the future, following
   diuresis
   .
   # RHYTHM: In a fib since [**11-19**] AM, previously sinus and intermittently
   V-pacing.  HR 80
s-110
s overnight with BP 70
s-80
s while sleeping.
   Did not respond to Metoprolol IV overnight, but did yesterday morning.
   Goal HR 80-90
s. In atrial fibrillation in the 100s now. Concerned that
   heart will not tolerate atrial fibrillation, as need atrial kick to
   help with cardiac output versus aortic stenosis.
   - 2.5 mg IV metoprolol now
   - Cardiovert patient today out of atrial fibrillation
   - Heparin drip in preparation for cardioversion
   - Start Amiodarone 200mg PO tid
   - Continue Digoxin to slow HR with minimal BP effect
   - Increase metoprolol to 25 mg tid
   - On ASA, Plavix, but holding on Coumadin as patient high fall risk and
   risks outweight benefits of Coumadin
   - Daily EKGs
   - Restart lasix drip for continued diuresis, goal negative 1L today,
   titrate to >150cc/hour UOP
   .
   # CORONARIES: OSH EKG demonstrates ST elevations in anterior leads.
   Elevation V1 > 2.5 mm suggests occlusion LAD distal to septal branch
   resulting in anterior MI. EKG on admission to CCU showed decreasing ST
   elevations in V1-V3 and q waves in V4-V5, this morning with worsening
   ST elevations. Patient hemodynamically stable and chest pain free
   currently but was tachycardic in 90
s-100
s overnight and this morning,
   with chest pain and significant nausea overnight, which responded to
   Nitro drip and Morphine.  Nitro drip now d/c
ed, pt chest pain free
   overnight.  Metoprolol up-titrated recently for HR control.  Due to
   medical co-morbidities, improving EKG with q waves, hemodynamic
   stability underwent medical management of STEMI.  Now CEs trending down
   but still with ST elevations on EKG.  RV lift present on previous days
   exams, TTE showed no VSD (as complication of STEMI).
   - Continue Metoprolol at 25mg tid
   - Continue Plavix, Atorvastatin 80 daily, ASA
   - Hold outpatient Simvastatin 40 mg qd
   - Patient will need to be started on ACE-I, but hold now until after
   diuresis
   .
   # Renal failure: Acute renal failure, likely [**3-15**] hypoperfusion from
   STEMI, now resolved to Cr 0.9. Continue to diurese patient today with
   lasix.
   - Reinitiate ACE once diuresis complete
   .
   # Dementia/Depression: Continue outpatient Aricept 10 mg qhs,
   Mitrazapine 15 mg qhs, Seroquel 25 mg [**Hospital1 **].  Patient extremely needing
   Haldol previously, but calm since without need for Haldol.
   .
   # Leukocytosis: Resolving, most likely related to ACS/STEMI. No obvious
   infiltrate on CXR, no symptoms of cough, fever.  Levaquin d/c
ed as no
   evidence of infection.
   # Dyslipidemia: Setting of ACS, Atorvastatin 80mg high dose.
   .
   # Hypertension: Metoprolol as above.  Nitro drip previously d/c
   Currently stable/low in setting of a fib.
   .
   # Overactive bladder: Hold detrol.
   .
   # Osteoporosis: Restart home fosamax, calcium, vitamin D.
   .
   # Nausea: prochlorperazine prn
   .
   # Guiac positive stool, Hct stable. Monitor Hct
   ICU Care
   Nutrition: cardiac diet
   Electrolytes:  Replete prn
   Glycemic Control:
   Lines:
   22 Gauge - [**2151-11-19**] 07:00 AM
   Prophylaxis:
   DVT: heparin IV for now
   Stress ulcer:
   VAP:  not intubated
   Comments:
   Communication:  Comments:
   Code status: DNR, DNI
   Disposition:
   ------ Protected Section ------
   CCU ATTENDING DAILY PROGRESS NOTE:
   I have reviewed the Comprehensive Progress Note today by Dr. [**Last Name (STitle) **] and
   I concur with the history, physical examination, assessment, and
   treatment plan outlined above.  The physical examination is consistent
   with my own examination today.
   History:  As documented by Dr. [**Last Name (STitle) **].   While up in a chair, she
   developed nausea this morning.  She is not particularly short of
   breath.
   Physical:  As documented by Dr. [**Last Name (STitle) **].   She has rales one half way up
   her posterior chest wall.
   Medical Decision Making:   Mrs. [**Known lastname 1198**] is a 87 year old woman with
   known aortic stenosis (peak velocity 4.3 M/sec) who suffers with
   dementia and is a nursing home resident.  She developed typical chest
   pain consistent with an anterior STEMI by EKG.  She was treated with
   maximal medical therapy including IV heparin, clopidogrel, IV
   eptifibatide, morphine and morphine sulfate.   Aspirin and clopidogrel
   have been continued.  An echocardiogram showed a LVEF of approximately
   40% with mid and distal anterior hypokinesis.
   Over the past 2 days, the patient developed atrial fibrillation now
   with a rapid ventricular response that has not responded to IV and oral
   beta blocker therapy.  Due to her underlying aortic stenosis, we will
   proceed with DC cardioversion and IV heparin after the procedure. We
   will monitor her for any worsening in bleeding after the procedure
   (guiac positive stools).   We will continue to force diuresis her but I
   suspect that this will be easier once she converts back to sinus
   rhythm,
   Our primary goal continues to be patient comfort.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**], MD  [**Pager number 9211**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2151-11-21**] 13:28 ------

2151-11-22 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIOVERSION/DEFIBRILLATION - At [**2151-11-21**] 02:00 PM
   [**11-21**]:  Cardioverted to NSR successfully (one shock 200j).   Started on
   IV heparin gtt.
   -Lopressor increased to 25mg.
   -Pharmacy concerned for significant drug-drug interactions with amio
   and dig; monitor daily dig level;
   -Discontinued Digoxin once patient was in sinus, and continued Amio
   (per cards fellow)
   -Lasix gtt re-started.  Concern for not meeting diuresis goal at
   midnight, lasix drip rate increased again, given another lasix IV bolus
   -Pt with diarrhea
   -Agitated overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Furosemide (Lasix) - 18 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2151-11-21**] 10:30 AM
   Furosemide (Lasix) - [**2151-11-22**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-22**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.3
   HR: 71 (68 - 116) bpm
   BP: 94/54(64) {91/38(56) - 138/115(120)} mmHg
   RR: 16 (12 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 68.7 kg (admission): 71 kg
   Height: 62 Inch
             Total In:
                                                                    909 mL
                                                                    243 mL
   PO:
                                                                    620 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    289 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                  1,080 mL
   Urine:
                                                                  1,640 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -731 mL
                                                                   -837 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///31/
   Physical Examination
   GENERAL: Oriented to name only. No acute distress.
   HEENT:  JVP unable to be assessed [**3-15**] lack of pt cooperation
   CARDIAC: RRR with frequent ectopy, GIII harsh systolic murmer at RUSB,
   GII systolic murmur left upper sternal border and apex.
   LUNGS: Coarse rales at bases b/l
   ABDOMEN: Soft, NT/ND.
   GYN:  Clear urine draining from Foley
   EXTREMITIES: Trace pitting edema in dependent areas.
   Labs / Radiology
   214 K/uL
   11.8 g/dL
   114 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.6 mEq/L
   33 mg/dL
   102 mEq/L
   146 mEq/L
   37.0 %
   12.0 K/uL
        [image002.jpg]
                             [**2151-11-16**]  11:20 AM
                             [**2151-11-16**]  05:26 PM
                             [**2151-11-16**]  10:17 PM
                             [**2151-11-17**]  12:20 PM
                             [**2151-11-18**]  03:49 AM
                             [**2151-11-19**]  09:50 AM
                            [**2151-11-20**]  05:05 AM
                            [**2151-11-21**]  05:40 AM
                            [**2151-11-22**]  04:08 AM
   WBC
   11.5
   14.2
   15.3
   14.1
   11.7
   10.3
   12.0
   Hct
   40.5
   39.5
   36.4
   33.8
   34.1
   35.4
   37.0
   Plt
   178
   177
   165
   150
   168
   197
   214
   Cr
   1.2
   1.4
   1.0
   1.0
   1.2
   0.9
   1.1
   TropT
   0.10
   0.95
   2.13
   3.66
   Glucose
   [**Telephone/Fax (3) 9295**]13
   108
   113
   114
   Other labs: PT / PTT / INR:15.0/86.1/1.3, CK / CKMB /
   Troponin-T:2391/253/3.66, Differential-Neuts:86.7 %, Lymph:10.2 %,
   Mono:2.3 %, Eos:0.6 %, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 87 year old female with dementia transferred from outside hospital
   with STEMI, being medically managed after reversal of DNR/DNI status,
   now back to DNR/DNI status.
   .
   # PUMP: Patient with lower extremity edema and pulmonary rales on exam.
   Cardiomegaly on chest x-ray. Lasix listed as outpatient medication.
   Fluid overload in setting of congestive heart failure. TTE showed EF
   40-45% with prominent symmetric left ventricular hypertrophy with
   regional systolic dysfunction c/w CAD (mid-LAD distribution). Severe
   pulmonary artery systolic hypertension. Mild-moderate mitral
   regurgitation. Possible aortic valve stenosis.  Lasix drip re-started,
   patient diuresed ~1L in the past day (with total extra 100mg IV Lasix
   bolus as well as Lasix drip), ~-3.5 LOS, appears nearing dry weight,
   though still with rales at bases.  Given hypernatremia and approach to
   dry weight, would slow diuresis rate.
   - d/c Lasix drip
   - Initiate IV Lasix at 80mg [**Hospital1 **] to goal of -0.5-1L/day as patient
   hypernatremic.
   - Continue Metoprolol at 25mg tid
   - Consider initiating ACE-I tomorrow, after anticipated d/c of
   diuresis, as pt
s pressures higher and stable following cardioversion
   - CXR to evaluate fluid overload (and to r/o PNA given leukocytosis, as
   below)
   .
   # RHYTHM: In a fib since [**11-19**] AM, previously sinus and intermittently
   V-pacing.  HR 80
s-110
s overnight with BP 70
s-80
s while sleeping.
   Pt cardioverted and currently in sinus with Amiodarone to maintain
   sinus rhythm.  Digoxin d/c
ed as patient in sinus and concern for
   interaction with Amiodarone.
   - Continue Amiodarone
   - On Heparin drip
   - Initiate Coumadin x30 days
   - Daily EKGs
   .
   # CORONARIES: OSH EKG demonstrates ST elevations in anterior leads.
   Elevation V1 > 2.5 mm suggests occlusion LAD distal to septal branch
   resulting in anterior MI. EKG on admission to CCU showed decreasing ST
   elevations in V1-V3 and q waves in V4-V5, this morning with worsening
   ST elevations. Patient hemodynamically stable and chest pain free
   currently but was tachycardic in 90
s-100
s overnight and this morning,
   with chest pain and significant nausea overnight, which responded to
   Nitro drip and Morphine.  Nitro drip now d/c
ed, pt chest pain free
   overnight.  Metoprolol up-titrated recently for HR control.  Due to
   medical co-morbidities, improving EKG with q waves, hemodynamic
   stability underwent medical management of STEMI.  Now CEs trending down
   but still with ST elevations on EKG.  HR well controlled with increased
   dose of Metoprolol 25mg daily.  Focused TTE negative for VSD as
   possible complication of STEMI.
   - Continue Metoprolol at 25mg daily, Plavix, Atorvastatin, ASA
   - Hold outpatient Simvastatin 40 mg qd
   - Consider starting ACE-I tomorrow, once diuresis complete
   .
   # Leukocytosis:  Patient with reported diarrhea, new leukocytosis but
   no fevers.  Will r/o infection as patient unable to give reliable
   history, though no clear evidence of infection on exam.
   - C. diff stool study as pt with report of diarrhea
   - UCx, as patient has foley in place
   - CXR to r/o PNA, though low suspicion
   .
   # Renal failure: Acute renal failure, likely [**3-15**] hypoperfusion from
   STEMI, now resolved with stable Cr ~1.0.
   - Reinitiate ACE once diuresis complete
   .
   # Dementia/Depression: Continue outpatient Aricept 10 mg qhs,
   Mitrazapine 15 mg qhs, Seroquel 25 mg [**Hospital1 **].  Patient extremely needing
   Haldol previously, calm for several days but again agitated again,
   though not given Haldol.  Will r/o infectious cause of
   delirium/agitation as above.
   .
   # Dyslipidemia: Setting of ACS, Atorvastatin 80mg high dose.
   .
   # Hypertension: Metoprolol as above.  Nitro drip previously d/c
   Currently stable on current regimen.
   .
   # Overactive bladder: DC detrol.
   .
   # Osteoporosis: Re-initiated home fosamax and vitamin D.
   ICU Care
   Nutrition:  Heart healthy, low sodium diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2151-11-19**] 07:00 AM
   Prophylaxis:
   DVT: Change from SC Heparin to Pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI (confirmed)
   Disposition:  Call out to floor
   ------ Protected Section ------
   CCU ATTENDING DAILY PROGRESS NOTE:
   I have reviewed the Comprehensive Progress Note today by Dr. [**First Name (STitle) **] and I
   concur with the history, physical examination, assessment, and
   treatment plan outlined above.  I was present for the entire physical
   examination and the progress note documents my own findings.
   History:  As documented by Dr. [**First Name (STitle) **].   She refused her medication this
   morning but has now taken them with more encouragement.
   Physical:  As documented by Dr. [**First Name (STitle) **].   Her rales have improved.
   Medical Decision Making:   Ms. [**Known lastname 1198**] is an 87 year old woman with
   known aortic stenosis (peak velocity 4.3 M/sec) who suffers with
   dementia and is a nursing home resident.  She developed typical chest
   pain consistent with an anterior STEMI by EKG.  She was treated with
   maximal medical therapy including IV heparin, clopidogrel, IV
   eptifibatide, morphine and morphine sulfate.   Aspirin and clopidogrel
   have been continued.  An echocardiogram showed a LVEF of approximately
   40% with mid and distal anterior hypokinesis.
   After remaining in sinus rhythm for the past 18 hours following
   electrical cardioversion, the patient redeveloped atrial fibrillation
   this morning.  As a result of this recurrence, we will continue loading
   with Amiodarone (for rate control) and use intermittent IV beta
   blockers to keep her ventricular response rate < 80.  She has a VVI
   pacemaker.   We will discontinue her IV heparin and coumadin
   transition, and keep her on aspirin and clopidogrel alone for
   anticoagulation.
   Our primary goal continues to be patient comfort and we will transition
   her over to bolus diuretics with anticipation of moving her to the
   floor later today.
   [**First Name4 (NamePattern1) 3051**] [**Last Name (NamePattern1) 6109**], MD  [**Pager number 9211**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3051**] [**Last Name (NamePattern1) 6109**], MD
   on:[**2151-11-22**] 12:24 ------

2151-11-23 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: STEMI, medically managed
   24 Hour Events:
   - Discussed with [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 9225**] goals of care. Will keep as DNR/DNI for
   now, although no escalation of care from current meds and no more
   procedures.  Requests hospice referral.  When hospice dispo arranged,
   fax papers to [**Telephone/Fax (1) 9375**] c/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) 9225**] and she will sign forms.
   - Spoke with [**Hospital 9224**] Nursing Home, [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 9376**] (CM), and [**First Name8 (NamePattern2) 1012**] [**Last Name (NamePattern1) 1082**].
   Patient to be d/c'd to NH tomorrow and they will take care of hospice
   referral. Palliative care c/s ordered in POE with [**Doctor Last Name 1012**] already aware
   so that she can make sure that NH places hospice referral.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2151-11-22**] 09:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-11-23**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 98 (76 - 110) bpm
   BP: 77/52(58) {72/40(49) - 113/80(84)} mmHg
   RR: 16 (12 - 39) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 68.7 kg (admission): 71 kg
   Height: 62 Inch
                  Total In:
                                                                    508 mL
                                                                    240 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    268 mL
   Blood products:
   Total out:
                                                                  2,000 mL
                                                                    175 mL
   Urine:
                                                                  2,000 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,492 mL
                                                                     65 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   214 K/uL
   11.8 g/dL
   114 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.6 mEq/L
   33 mg/dL
   102 mEq/L
   146 mEq/L
   37.0 %
   12.0 K/uL
        [image002.jpg]
                             [**2151-11-16**]  11:20 AM
                             [**2151-11-16**]  05:26 PM
                             [**2151-11-16**]  10:17 PM
                             [**2151-11-17**]  12:20 PM
                             [**2151-11-18**]  03:49 AM
                             [**2151-11-19**]  09:50 AM
                            [**2151-11-20**]  05:05 AM
                            [**2151-11-21**]  05:40 AM
                            [**2151-11-22**]  04:08 AM
   WBC
   11.5
   14.2
   15.3
   14.1
   11.7
   10.3
   12.0
   Hct
   40.5
   39.5
   36.4
   33.8
   34.1
   35.4
   37.0
   Plt
   178
   177
   165
   150
   168
   197
   214
   Cr
   1.2
   1.4
   1.0
   1.0
   1.2
   0.9
   1.1
   TropT
   0.10
   0.95
   2.13
   3.66
   Glucose
   [**Telephone/Fax (3) 9295**]13
   108
   113
   114
   Other labs: PT / PTT / INR:15.0/86.1/1.3, CK / CKMB /
   Troponin-T:2391/253/3.66, Differential-Neuts:86.7 %, Lymph:10.2 %,
   Mono:2.3 %, Eos:0.6 %, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 87 year old female with dementia transferred from outside hospital
   with STEMI, being medically managed after reversal of DNR/DNI status,
   now back to DNR/DNI status.
   .
   # PUMP: Patient with lower extremity edema and pulmonary rales on exam.
   Cardiomegaly on chest x-ray. Lasix listed as outpatient medication.
   Fluid overload in setting of congestive heart failure. TTE showed EF
   40-45% with prominent symmetric left ventricular hypertrophy with
   regional systolic dysfunction c/w CAD (mid-LAD distribution). Severe
   pulmonary artery systolic hypertension. Mild-moderate mitral
   regurgitation. Possible aortic valve stenosis.  Lasix drip re-started,
   patient diuresed ~1L in the past day (with total extra 100mg IV Lasix
   bolus as well as Lasix drip), ~-3.5 LOS, appears nearing dry weight,
   though still with rales at bases.  Given hypernatremia and approach to
   dry weight, would slow diuresis rate.
   - d/c Lasix drip
   - Initiate IV Lasix at 80mg [**Hospital1 **] to goal of -0.5-1L/day as patient
   hypernatremic.
   - Continue Metoprolol at 25mg tid
   - Consider initiating ACE-I tomorrow, after anticipated d/c of
   diuresis, as pt
s pressures higher and stable following cardioversion
   - CXR to evaluate fluid overload (and to r/o PNA given leukocytosis, as
   below)
   .
   # RHYTHM: In a fib since [**11-19**] AM, previously sinus and intermittently
   V-pacing.  HR 80
s-110
s overnight with BP 70
s-80
s while sleeping.
   Pt cardioverted and currently in sinus with Amiodarone to maintain
   sinus rhythm.  Digoxin d/c
ed as patient in sinus and concern for
   interaction with Amiodarone.
   - Continue Amiodarone
   - On Heparin drip
   - Initiate Coumadin x30 days
   - Daily EKGs
   .
   # CORONARIES: OSH EKG demonstrates ST elevations in anterior leads.
   Elevation V1 > 2.5 mm suggests occlusion LAD distal to septal branch
   resulting in anterior MI. EKG on admission to CCU showed decreasing ST
   elevations in V1-V3 and q waves in V4-V5, this morning with worsening
   ST elevations. Patient hemodynamically stable and chest pain free
   currently but was tachycardic in 90
s-100
s overnight and this morning,
   with chest pain and significant nausea overnight, which responded to
   Nitro drip and Morphine.  Nitro drip now d/c
ed, pt chest pain free
   overnight.  Metoprolol up-titrated recently for HR control.  Due to
   medical co-morbidities, improving EKG with q waves, hemodynamic
   stability underwent medical management of STEMI.  Now CEs trending down
   but still with ST elevations on EKG.  HR well controlled with increased
   dose of Metoprolol 25mg daily.  Focused TTE negative for VSD as
   possible complication of STEMI.
   - Continue Metoprolol at 25mg daily, Plavix, Atorvastatin, ASA
   - Hold outpatient Simvastatin 40 mg qd
   - Consider starting ACE-I tomorrow, once diuresis complete
   .
   # Leukocytosis:  Patient with reported diarrhea, new leukocytosis but
   no fevers.  Will r/o infection as patient unable to give reliable
   history, though no clear evidence of infection on exam.
   - C. diff stool study as pt with report of diarrhea
   - UCx, as patient has foley in place
   - CXR to r/o PNA, though low suspicion
   .
   # Renal failure: Acute renal failure, likely [**3-15**] hypoperfusion from
   STEMI, now resolved with stable Cr ~1.0.
   - Reinitiate ACE once diuresis complete
   .
   # Dementia/Depression: Continue outpatient Aricept 10 mg qhs,
   Mitrazapine 15 mg qhs, Seroquel 25 mg [**Hospital1 **].  Patient extremely needing
   Haldol previously, calm for several days but again agitated again,
   though not given Haldol.  Will r/o infectious cause of
   delirium/agitation as above.
   .
   # Dyslipidemia: Setting of ACS, Atorvastatin 80mg high dose.
   .
   # Hypertension: Metoprolol as above.  Nitro drip previously d/c
   Currently stable on current regimen.
   .
   # Overactive bladder: DC detrol.
   .
   # Osteoporosis: Re-initiated home fosamax and vitamin D.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2151-11-21**] 10:49 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: